US06894042B2
Methyl 3-hydroxy-4-iodobenzoate (2.0 g, 7.2 mmol) is dissolved in DMF (25 ml) in a dry flask under nitrogen. Allyl bromide (0.65 ml, 7.55 mmol) is added drop-wise, followed by the careful addition of 60% NaH (303 mg, 7.55 mmol). The reaction is stirred overnight at RT and then is diluted with H2O (30 ml). The mixture is extracted with EtOAc (3×30 ml), and the combined organics are washed with 50% saturated NaCl (4×25 ml), dried (MgSO4), filtered, and concentrated under high vacuum to an oil that solidified upon standing. The volatiles are removed in vacuo to obtain 2.28 g (100%) of methyl 3-(allyloxy)-4-iodobenzoate as a tan solid. HRMS (FAB) calcd for C11H11IO3+H: 318.9833, found 318.9831 (M+H)+.

reactant | Methyl 3-hydroxy-4-iodobenzoate | 7.2 mmol, 2.0 g | OC=1C=C(C(=O)OC)C=CC1I | C8H7IO3
reactant | Allyl bromide | 7.55 mmol, 0.65 ml | C(C=C)Br | C3H5Br
reactant | NaH | 7.55 mmol, 303 mg | [H-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | H2O | 30 ml | O | H2O
product | methyl 3-(allyloxy)-4-iodobenzoate | 2.28 g, 100% | C(C=C)OC=1C=C(C(=O)OC)C=CC1I | C11H11IO3
